US08476432B2
2-[(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide (5.0 g), dichloromethane (30.0 mL), and Dess-Martin periodinane (11.2 g) were added to a reactor under nitrogen atmosphere. The reaction mixture was stirred at 20˜30° C. for over 5 hours. Water (30.0 mL) was added to the reaction mixture. The separated organic layer was concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (ethyl acetate/n-hexane=1:3) to obtain 2-[(4R,6S)-6-formyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide as a white solid (4.3 g, yield 87%).

reactant | 2-[(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide | 5.0 g | OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C)OC | C11H21NO5
reactant | dichloromethane | 30.0 mL | ClCCl | CH2Cl2
reactant | Dess-Martin periodinane | 11.2 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | Water | 30.0 mL | O | H2O
product | 2-[(4R,6S)-6-formyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide | 4.3 g, yield 87% | C(=O)[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C)OC | C11H19NO5
